US08053581B2
Preparation of 4-{2-[5-benzyl-4-(4-hydroxy-phenyl)-thiazol-2-yl]-ethyl}-benzene-1,2-diol
A procedure similar to that in Example 7 was used. 5-benzyl-2-[2-(3,4-dimethoxy-phenyl)-ethyl]-4-(4-methoxy-phenyl)-thiazole prepped in step 4 of Example 77 and boron tribromide were as starting materials, the crude product was recrystallized with acetone to obtain a product as a white solid in a yield of 52.2%, mp: 177-178 └. 1H-NMR (DMSO-d6, 400 MHz) δ: 2.82 (2H, t, J=8.16 Hz, ArH), 3.11 (2H, t, J=8.16 Hz, ArH), 4.20 (2H, s, CH2), 6.48 (1H, d, J=8.12 Hz, ArH), 6.58˜6.64 (2H, m, ArH), 6.82 (2H, d, J=8.40 Hz, ArH), 7.14˜7.26 (3H, m, ArH), 7.32 (2H, t, J=7.28 Hz, ArH), 7.44 (2H, d, J=8.40 Hz, ArH), 8.69 (1H, s, OH), 8.75 (1H, s, OH), 9.61 (1H, s, OH); EI-MS m/e (%): 403.2 (M+, 67), 281.2 (100); HREI-MS Calcd. for C24H21NO3S: 403.1242. found: 403.1238.

reactant | 5-benzyl-2-[2-(3,4-dimethoxy-phenyl)-ethyl]-4-(4-methoxy-phenyl)-thiazole | C(C1=CC=CC=C1)C1=C(N=C(S1)CCC1=CC(=C(C=C1)OC)OC)C1=CC=C(C=C1)OC | C27H27NO3S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
product | 4-{2-[5-benzyl-4-(4-hydroxy-phenyl)-thiazol-2-yl]-ethyl}-benzene-1,2-diol | yield of 52.2% | C(C1=CC=CC=C1)C1=C(N=C(S1)CCC=1C=C(C(=CC1)O)O)C1=CC=C(C=C1)O | C24H21NO3S
